US09290490B2
To a solution of methyl 4-{1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}-1-methylcyclohexanecarboxylate (37.8 mg, 0.071 mmol) in tetrahydrofuran (0.6 mL) and methanol (1.2 mL) was added sodium hydroxide (1.0 M in water, 0.283 mL, 0.283 mmol). The reaction mixture was irradiated to 160° C. for 5 min in a microwave oven. After cooling to room temperature, hydrochloric acid (2.0 M in water, 0.145 mL, 0.290 mmol) was added. The mixture was partitioned between 10% IPA:CHCl3 and brine, and then the layers were separated. The aqueous layer was extracted with 10% IPA:CHCl3, and the combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure to yield 4-{1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}-1-methylcyclohexanecarboxylic acid. MS ESI calc'd. for C25H27F3N4O3S [M+H]+ 521. found 521. 1H NMR (500 MHz, DMSO-d6) δ 11.99 (s, 1H), 10.24 (s, 1H), 8.83 (d, J=4.9 Hz, 1H), 7.95 (s, 2H), 7.45 (s, 1H), 7.27 (d, J=4.9 Hz, 1H), 7.14 (s, 1H), 5.83 (s, 1H), 2.31 (s, 3H), 1.70-1.38 (m, 6H), 1.48 (s, 3H), 1.36-1.28 (m, 1H), 1.26-1.16 (m, 2H), 1.02 (s, 3H). rhSyk (isomer 3)=+++

reactant | methyl 4-{1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}-1-methylcyclohexanecarboxylate | 0.071 mmol, 37.8 mg | OC(C)(C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)C1CCC(CC1)(C(=O)OC)C | C26H29F3N4O3S
reactant | sodium hydroxide | 0.283 mmol, 1.0 M, 0.283 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.290 mmol, 2.0 M, 0.145 mL | Cl | ClH
solvent | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
solvent | methanol | 1.2 mL | CO | CH4O
product | 4-{1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}-1-methylcyclohexanecarboxylic acid | OC(C)(C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)C1CCC(CC1)(C(=O)O)C | C25H27F3N4O3S
